US07691882B2
4-Phenylsulfanylmethyl-benzoic acid
A mixture of 4-(bromomethyl)benzoic acid (10 g, 46.5 mmol), sodium thiophenoxide (6.15 g, 46.5 mmol), and ethanol (100 mL) was stirred for 1.5 hours under reflux. This mixture was cooled to room temperature and acidified with 1 N hydrochloric acid. The precipitate thus produced was collected, dissolved in ethyl acetate, and washed with water. The organic layer was concentrated under a reduced pressure to obtain the title compound (10 g). The title compound was used in the following reaction without any further purification.

reactant | 4-(bromomethyl)benzoic acid | 46.5 mmol, 10 g | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | sodium thiophenoxide | 46.5 mmol, 6.15 g | [S-]C1=CC=CC=C1.[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-Phenylsulfanylmethyl-benzoic acid | 10 g | C1(=CC=CC=C1)SCC1=CC=C(C(=O)O)C=C1 | C14H12O2S
